US06316467B1
4-[(Aminothioxomethyl)-hydrazono]-N-cyclohexyl-4-phenylbutanamide
Thiosemicarbazide (1.75 g, 19.2 mmol) was added to a solution of N-cyclohexyl-4-oxo-4-phenyl-butyramide (3.30 g, 11.7 mmol), prepared in the previous step, in 40 ml of methanol plus 3.2 ml of 1 N HCl plus 3.2 ml of water and the reaction stirred at room temperature for 21 hours. The solid formed was removed by filtration and dried to give 2.69 g of a white solid. The filtrate was concentrated under reduced pressure to remove the methanol. The residue was partitioned between methylene chloride and water. The organic layer was separated, washed multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give 1.10 g of a white foam. The initial solid filtered from the reaction was dissolved in methylene chloride, washed multiple times with water, dried (MgSO4) and the solvent removed under reduced pressure to give a white foam. Both materials were combined and crystallized from methylene chloride-ethyl acetate to give the title compound (3.31 g, 69%) as a white solid, mp 89-92° C.

reactant | Thiosemicarbazide | 19.2 mmol, 1.75 g | NNC(=S)N | CH5N3S
reactant | N-cyclohexyl-4-oxo-4-phenyl-butyramide | 11.7 mmol, 3.30 g | C1(CCCCC1)NC(CCC(C1=CC=CC=C1)=O)=O | C16H21NO2
reactant | HCl | 1 N, 3.2 ml | Cl | ClH
reactant | water | 3.2 ml | O | H2O
solvent | methanol | 40 ml | CO | CH4O
product | 4-[(Aminothioxomethyl)-hydrazono]-N-cyclohexyl-4-phenylbutanamide | 2.69 g | NC(=S)NN=C(CCC(=O)NC1CCCCC1)C1=CC=CC=C1 | C17H24N4OS
